Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
lisinopril
 
Attending: ___.
 
Chief Complaint:
Dyspnea on exertion
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ M w/gout and hypertension with exertional shortness of breath 
since 3 da ago, feeling that he has had bronchitis for the past 
3 days, presented today to doc's office and found to be in 
atrial fibrillation. Received atenolol 25 mg in clinic. 

No history of afib. Has never felt like this before. States that 
took pseudoephedrine tablets each morning for the past few days 
for congestion. Also several episodes of drinking ___ alcoholic 
drinks over 1 afternoon during the recent football games, and 
several contacts at work in close quarters with URIs. 

Emergency Department Course:
On exam: patient with clinical acute CHF. New onset afib. 
CHADS2VASC 1. 
Initial vitals were 97, ___, 16 98% on RA. Given 
EKG: afib
Labs/studies notable for: Na+ 131, Trop-T < 0.01, proBNP 3692, 
WBC 12.2
Chest x-ray: Mild cardiomegaly with possible mild pulmonary 
vascular congestion and trace right pleural effusion. 
  
Patient was given: IV Dilt 10 mg, HR to 99, BP to 120/83
Vitals on transfer:
T 99.2  BP 143/96  HR 78  RR 18 SpO2 95% on RA
Wt 304 lbs

On the floor he stated he still felt that he was in afib but 
denies SOB at rest, chest pain, n/v, lightheadedness.
 
On review of systems, he denies any prior history of stroke, 
TIA, deep venous thrombosis, pulmonary embolism, bleeding at the 
time of surgery, recent fevers, chills or rigors. He denies 
exertional calf pain. Denies recent illness and recent travel. 
All of the other review of systems were negative.  
 
Cardiac review of systems is notable for presence of dyspnea on 
exertion, paroxysmal nocturnal dyspnea, and lower leg edema. 
Absence of chest pain,  orthopnea, ankle edema, palpitations, 
syncope or presyncope.  
 

 
Past Medical History:
1. CARDIAC RISK FACTORS:  
obesity, sedentary lifestyle, former smoker, > 5 alcoholic 
drinks at 1 time

2. CARDIAC HISTORY:  
None 

3. OTHER PAST MEDICAL HISTORY:  
Hypertension
Basal cell carcinoma
gout
Denies MIs, strokes, TIAs, blood clots, liver disease
Denies abdominal, thoracic surgery

 
Social History:
___
Family History:
Family History:
Denies family history of MIs, strokes, blood clots, arrhythmias
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:  
Vitals:  T 99.2  BP 143/96  HR 78  RR 18 SpO2 95% on RA

LABS:  General:  Lying in bed, NAD, appears stated age, 
cooperative, interactive
HEENT:  NTNC, Eyes anicteric, non-injected, PERRL
Neck:  Supple, difficult to appreciate JVD, no hepatojugular 
reflex
CV:  Normal rate, irregular rhythm, no murmurs, rubs, gallops
Lungs:  Breathing symmetric, non-labored, Clear to auscultation
Abdomen:  Soft, obese, non-distended, non-tender to palpation, 
BS+
Extr:  warm, well-perfused, no clubbing, cyanosis, or 
petechiate, 1+ pitting edema on ___ bilaterally
Neuro:  moving all extremities, face symmetric, speech clear, 
changes position easily
Skin:  abrasion 4x5 cm on left ___ (surgical site), no rashes on 
face, neck, back, lower legs

DISCHARGE PHYSICAL EXAM:  
VS: T= 97.4-98.2 BP= (130-151)/(96-118) HR= 56-118 RR= 18 O2 
sat=  ___ on RA
I/O: 8 hrs: ___  24 hrs: not noted 720
Wt: pending today , from 304.1 lbs yesterday
General:  Lying in bed, NAD, appears stated age, cooperative, 
interactive
HEENT:  NTNC, Eyes anicteric, non-injected, PERRL
Neck:  Supple, difficult to appreciate JVD, no hepatojugular 
reflex
CV:  Normal rate, irregular rhythm, no murmurs, rubs, gallops
Lungs:  Breathing symmetric, non-labored, Clear to auscultation
Abdomen:  Soft, obese, non-distended, non-tender to palpation, 
BS+
Extr:  warm, well-perfused, no clubbing, cyanosis, or 
petechiate, 1+ pitting edema on ___ bilaterally
Neuro:  moving all extremities, face symmetric, speech clear, 
changes position easily
Skin:  abrasion 4x5 cm on left ___ (surgical site), no rashes on 
face, neck, back, lower legs

 
Pertinent Results:
ADMISSION LABS
___ 08:54PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 08:54PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-100 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-NEG
___ 08:54PM URINE  RBC-1 WBC-0 BACTERIA-NONE YEAST-NONE 
EPI-0
___ 08:54PM URINE  MUCOUS-RARE
___ 02:30PM   ___ PTT-29.9 ___
___ 01:43PM   K+-4.8
___ 12:15PM   GLUCOSE-137* UREA N-13 CREAT-1.1 SODIUM-131* 
POTASSIUM-5.2* CHLORIDE-99 TOTAL CO2-23 ANION GAP-14
___ 12:15PM   cTropnT-<0.01 proBNP-3692*
___ 12:15PM   TSH-3.0
___ 12:15PM   WBC-12.2* RBC-4.69 HGB-14.8 HCT-43.1 MCV-92 
MCH-31.6 MCHC-34.3 RDW-13.6 RDWSD-45.2
___ 12:15PM   NEUTS-74.4* LYMPHS-17.3* MONOS-6.7 EOS-0.6* 
BASOS-0.4 IM ___ AbsNeut-9.07* AbsLymp-2.11 AbsMono-0.81* 
AbsEos-0.07 AbsBaso-0.05
___ 12:15PM   PLT COUNT-222

DISCHARGE LABS
___ 08:00AM BLOOD WBC-10.7* RBC-4.55* Hgb-14.0 Hct-41.7 
MCV-92 MCH-30.8 MCHC-33.6 RDW-13.9 RDWSD-46.5* Plt ___
___ 08:00AM BLOOD Plt ___
___ 08:00AM BLOOD ___ PTT-31.3 ___
___ 08:00AM BLOOD Glucose-141* UreaN-15 Creat-1.0 Na-137 
K-4.2 Cl-101 HCO3-25 AnGap-15
___ 08:00AM BLOOD Calcium-9.8 Phos-3.8 Mg-1.9

ECG ___
Atrial fibrillation with rapid ventricular response. Late R wave 
progression may be related to body habitus or consider anterior 
wall myocardial infarction. 
No previous tracing available for comparison.  
  Intervals     Axes 
Rate PR QRS QT QTc (___)    P QRS T 
128 ___   216 34 27 

ECG ___
Atrial fibrillation with rapid ventricular response. Compared to 
the previous tracing the rate is now slower. R wave progression 
is earlier. Otherwise, no change. 
TRACING #2 
  Intervals     Axes 
Rate PR QRS QT QTc (___)    P QRS T 
___ 449   0 52 48 
 
CXR ___
Cardiac silhouette size is mildly enlarged.  Mediastinal and 
hilar contours are unremarkable.  There is mild peribronchial 
cuffing without overt pulmonary edema, which could suggest mild 
pulmonary vascular congestion.  Minimal blunting of the right 
costophrenic angle suggests a trace right pleural effusion.  No 
focal consolidation or pneumothorax is identified.  The osseous 
structures are diffusely demineralized.  2 screws are project 
over the right glenohumeral joint. 
Mild cardiomegaly with possible mild pulmonary vascular 
congestion and trace right pleural effusion. 

ECHOCARDIOGRAM ___
The left atrium is moderately dilated. The estimated right 
atrial pressure is ___ mmHg. There is mild symmetric left 
ventricular hypertrophy with normal cavity size. Overall left 
ventricular systolic function is moderately depressed (LVEF= 
35-40%) secondary to mild-moderate global hypokinesis . There is 
considerable beat-to-beat variability of the left ventricular 
ejection fraction due to an irregular rhythm/premature beats. 
The right ventricular cavity is dilated with mild global free 
wall hypokinesis. The ascending aorta is mildly dilated. The 
aortic arch is mildly dilated. The aortic valve leaflets (3) 
appear structurally normal with good leaflet excursion and no 
aortic stenosis or aortic regurgitation. The mitral valve 
appears structurally normal with trivial mitral regurgitation. 
There is no mitral valve prolapse. The estimated pulmonary 
artery systolic pressure is normal. There is no pericardial 
effusion. 
IMPRESSION: Mild symmetric left ventricular hypertrophy with 
mild-moderate global biventricular systolic dysfunction. No 
significant valvular disease.  

 

 
Brief Hospital Course:
___ M w/gout and hypertension with exertional shortness of breath 
since 3 days prior to admission, also waking in the middle of 
the night struggling to breathe. He attributed these symptoms to 
bronchitis for the prior 3 days, presented to PCP and found to 
be in atrial fibrillation.

Denies history of arrhythmias. States that took pseudoephedrine 
tablets each morning for the past few days for congestion. Also 
several episodes of drinking ___ alcoholic drinks over 1 
afternoon during the recent football games, and several contacts 
at work in close quarters with URIs. As assessment for other 
potential triggers: TSH level was normal, blood and urine 
cultures are pending. 

Patient presented with temperature 97, HR 122, and BP 167/113. 
He was given iv diltiazem and his heart rate returned to normal. 
He was treated with Metoprolol 25 mg TID increased to 37.5 mg 
TID for rate control. Remained in afib on telemetry. CHADS2VASC 
score 1, was not started on anticoagulation. Discharged on 
Metoprolol succinate 200 mg.

Echocardiogram on ___ showed mild symmetric left 
ventricular hypertrophy with mild-moderate global biventricular 
systolic dysfunction, no significant valvular disease. EF 45 %. 
PAtient started on BB and ___. 

Had several episodes of hypertension, to around 170/100, while 
on Metoprolol. Asymptomatic. The patient states that he often 
has high blood pressure as high as the 200s by home measurements 
and in the 150s in the doctor's office, but that the only 
medication he takes for this is atenolol. Has had severe 
angioedema with lisinopril. Per chart, HCTZ was stopped due to 
gout. Amlodipine also stopped, reason not clear. Was discharged 
on new medication, losartan 50 mg daily.

Transitional Issues:
- afib management. discharged on 200 Metoprolol XL daily and 
apixaban for anticoagulation
- New EF 45 %: not overloaded on exam, dced with no diuretic. dc 
weight 304 lbs. Dced on losartan. 
- recommend Holter monitor
- Recommend anticoagulation with warfarin or novel 
anticoagulants for 1 month, followed by cardioversion. Dced with 
rx for apixaban if patient can fill. 
- management of poorly controlled hypertension. discharging on 
losartan 50 mg daily, meds to be adjusted in follow up. ** 
History of angioedema with ACE Inhibitors **
- OSA workup 
- presented slightly volume overloaded, may wish to consider low 
dose diuretic
- very interested in nutrition education
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atenolol 25 mg PO DAILY 
2. Allopurinol ___ mg PO DAILY 
3. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1. Allopurinol ___ mg PO DAILY 
2. Aspirin 81 mg PO DAILY 
3. Sodium Chloride Nasal ___ SPRY NU TID:PRN nasal congestion 
RX *sodium chloride [Saline Mist] 0.65 % 1 spray PRN Disp #*1 
Spray Refills:*0
4. Metoprolol Succinate XL 200 mg PO DAILY rapid heart rate 
RX *metoprolol succinate 200 mg 1 tablet(s) by mouth daily Disp 
#*90 Tablet Refills:*0
5. Losartan Potassium 50 mg PO DAILY hypertension 
RX *losartan 50 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
6. Apixaban 5 mg PO BID 
anticoagulation for afib 
RX *apixaban [Eliquis] 5 mg 1 tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis
Atrial fibrillation with rapid ventricular response
Secondary diagnosis
Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

Thank you for coming to ___. It 
was a pleasure to care for you.

You came to the hospital because you had been feeling short of 
breath for several days. You were found to have an abnormal 
heart rhythm called atrial fibrillation. This was causing your 
heart to beat too quickly. 

It is not known why some people develop atrial fibrillation, 
also called afib. Some things that can trigger new afib include 
use of medications such as pseudoephedrine, infections, and 
drinking several alcohol drinks in a short period of time.

Because your heart was beating too quickly, your blood was not 
pumping efficiently and so you needed to return to a slower 
heart rate. You took metoprolol to slow your heart rate. When 
your heart returned to a normal rhythm you were able to go home.

You had an echocardiogram, or ultrasound of your heart, that 
showed

It will be important for you to follow up with a cardiologist to 
manage your new afib. A cardiologist can help you keep your 
heart beating at a safe rate and prevent blood clots.

Your blood pressure was high during this admission. At times it 
went as high as 170/100. You explained that your blood pressure 
is often high and that the only medication you currently take 
for this is atenolol. As you know, high blood pressure can lead 
to many serious health problems, including strokes, heart 
attacks, and kidney failure. 

It will be important for you to work closely with a primary care 
provider to improve control of your blood pressure.

When you came to the hospital your legs were swollen because you 
were retaining excess fluid. This fluid can affect your heart 
and breathing. You should weigh yourself each morning and 
contact your PCP if you gain more than 3 pounds in 1 day.

We wish you the best,
 
Followup Instructions:
___